US08049015B2
Cyclopropanecarboxylic acid (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amide (22.1 g, 63.1 mmol), bis(pinacolato)diboron (17.6 g, 69.5 mmol), and potassium acetate (15.5 g, 157.9 mmol) were combined in 1,4-dioxane, and the solution was purged with N2. (1,1′-Bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (2.58 g, 3.2 mmol) was added, and the reaction was stirred at 100° C. overnight. After cooling to room temperature, the mixture was filtered through Celite and rinsed with EtOAc and H2O. The filtrate was worked up with brine and EtOAc, and the organic layer was separated, dried and concentrated. The residue was purified by silica gel chromatography (10-20% EtOAc in hexanes) to give cyclopropanecarboxylic acid ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-amide.

reactant | Cyclopropanecarboxylic acid (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amide | 63.1 mmol, 22.1 g | BrC1=C(CN(C(=O)C2CC2)CC)C=C(C=C1)C(F)(F)F | C14H15BrF3NO
reactant | bis(pinacolato)diboron | 69.5 mmol, 17.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 157.9 mmol, 15.5 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | (1,1′-Bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 3.2 mmol, 2.58 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | cyclopropanecarboxylic acid ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-amide | C(C)N(C(=O)C1CC1)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C20H27BF3NO3
